US06964966B2
Step-3: 4-Amino-1-benzyl-3-methylpiperidine:
Ammonium acetate (178.3 g, 2.31 mol) was charged to a solution of 1-benzyl-3-methyl-4-piperidone (47 g, 0.232 mol) in 500 ml methanol. The suspension was stirred for 4 hours at room temperature. Sodium cyanoborohydride (7.3 g, 0.16 mol) was added in lots at 10° C. and it was stirred for 1 hour.

reactant | Ammonium acetate | 2.31 mol, 178.3 g | C(C)(=O)[O-].[NH4+]
reactant | 1-benzyl-3-methyl-4-piperidone | 0.232 mol, 47 g | C(C1=CC=CC=C1)N1CC(C(CC1)=O)C | C13H17NO
reactant | Sodium cyanoborohydride | 0.16 mol, 7.3 g | C(#N)[BH3-].[Na+]
solvent | methanol | 500 ml | CO | CH4O
product | 4-Amino-1-benzyl-3-methylpiperidine | NC1C(CN(CC1)CC1=CC=CC=C1)C | C13H20N2
